US07208494B2
l) ®-6-Chloro-4,7-dimethyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
To an ice-cold solution of 0.50 g (1.25 mmol) ®-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-6-chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester in 6 mL dichloromethane was added 1.91 mL (2.85 g, 25.0 mmol) trifluoroacetic acid; the ice-bath was removed after complete addition. After 45 min., the volatile components were removed and the residue was dissolved in 3 mL methanol then treated cautiously with 0.70 g (5.0 mmol) potassium carbonate. After 2 h the reaction mixture was poured into water and ethyl acetate and the separated aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate and evaporated. The residue was dissolved in dichloromethane and tert-butyl methyl ether, evaporated under vacuum until a suspension appeared, then cooled to 0° C. The ice-cold suspension was filtered and the filter cake was washed with tert-butyl methyl ether to give the product as a colourless solid (73.7%).

reactant | 1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-6-chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=NC(=C(C2)C)Cl)N1C(CNC(=O)OC(C)(C)C)C | C19H26ClN3O4
reactant | trifluoroacetic acid | 25.0 mmol, 1.91 mL, 2.85 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 5.0 mmol, 0.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-4,7-dimethyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 73.7% | ClC=1N=C2N3C(CNC(C3=CC2=CC1C)=O)C | C12H12ClN3O
